US08536197B2
(36a) 2,2,2-Trifluoro-1-(2-methyl-1,3-dithian-2-yl)ethanone
2-Methyl-1,3-dithiane (1.50 g, 11.2 mmol) was dissolved in THF (50 mL), followed by cooling to −20° C. Then, n-butyllithium (1.58 M solution in hexane, 7 mL, 11.1 mmol) was added dropwise and the mixture was stirred for two hours. Ethyl trifluoroacetate (1.4 mL, 11.8 mmol) was added, and the mixture was heated to room temperature and stirred for 20 hours. Aqueous ammonium chloride solution was added to the reaction solution, followed by extraction with ethyl acetate. Then, the organic layer was washed with brine and dried over anhydrous sodium sulfate. Following concentration under reduced pressure, the residue was purified by silica gel column chromatography (elution solvent: hexane/ethyl acetate=100/0, 95/5, 85/15) to obtain 1.09 g of the title compound as a pale yellow solid (42%).

reactant | 2-Methyl-1,3-dithiane | 11.2 mmol, 1.50 g | CC1SCCCS1 | C5H10S2
reactant | n-butyllithium | 11.1 mmol, 1.58 M, 7 mL | C(CCC)[Li]
reactant | Ethyl trifluoroacetate | 11.8 mmol, 1.4 mL | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2,2,2-Trifluoro-1-(2-methyl-1,3-dithian-2-yl)ethanone | 1.09 g, 42% | FC(C(=O)C1(SCCCS1)C)(F)F | C7H9F3OS2
